US08026261B2
A. Preparation of 3-Hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one
A mixture of 3-hydroxy-1-methyl-1H-pyridin-4-one (7.60 g, 60.7 mmol) and K2CO3 (0.84 g, 6.07 mmol) in trifluoroacetaldehyde methyl hemiacetal (26 mL) was sealed in a parallel reactor and stirred for overnight at 120° C. The reaction mixture was evaporated to dryness, and the residue was purified by flash column chromatography on silica gel using a mixture of isopropyl alcohol and a conc. NH4OH solution (80/20, v/v) as eluant. Pure fractions were combined together and evaporated to give the title compound as a white solid (2.32 g, 17% yield). HPLC purity (peak area percent) of this compound is 99% at λ=254 nm. 1H NMR (400 MHz, DMSO-D6) δ (ppm): 7.59 (d, J=7.2 Hz, 1H), 6.20 (d, J=7.4 Hz, 1H), 5.80 (q, J=8.5 Hz, 1H) and 3.83 (s, 3H); MS-ESI (m/z): 223.7 [M+1]+, 206,158. Other fractions were combined to give a second crop of the product (8.26 g, 61% yield). HPLC purity (peak area percent) of this compound is 98% at λ=254 nm. HPLC method: Column: Waters Symmetry C18; 5 μm, 3.9×150 mm; Mobile phase: A=the aqueous phase: 0.035% HClO4 pH 2.5; B=the organic phase: CH3CN; gradient: % B: 0 min-10%, 10 min-90%, 12 min-90%, 15 min-10%; flow rate: 1 mL/min; wavelength: 220, 254, 280 nm.

reactant | 3-hydroxy-1-methyl-1H-pyridin-4-one | 60.7 mmol, 7.60 g | OC1=CN(C=CC1=O)C | C6H7NO2
reactant | K2CO3 | 6.07 mmol, 0.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trifluoroacetaldehyde methyl hemiacetal | 26 mL | COC(C(F)(F)F)O | C3H5F3O2
product | 3-Hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 2.32 g, 17% yield | OC1=C(N(C=CC1=O)C)C(C(F)(F)F)O | C8H8F3NO3
